US08071609B2
A) N-(4-(Dipropylphosphoryl)phenyl)-2-iodo-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
Patasium tert-Butoxide (0.19 g, 1.65 mmol) was suspended in 4.5 mL anhydrous THF under nitrogen and cooled to −10° C. in an ice-salt bath. 4-(Dipropylphosphoryl)benzenamine (0.12 g, 0.55 mmol) was added to the suspension and the mixture was stirred at −10° C. for 30 min. 6-Chloro-2-iodo-9-(tetrahydro-2H-pyran-2-yl)-9H-purine (Tetrahedron 2002, 58, 7911-7923, 0.18 mg, 0.5 mmol) was then added to the reaction mixture and the content was warmed to room temperature and stirred over night. The reaction mixture was cooled to 0° C., and quenched by the addition of 0.1N HCl (˜500 mL). The mixture was concentrated on a rotavapor. The residue was partitioned between ethyl acetate (10 mL)/water (4 mL), organic layer was separated and washed with 0.1N HCl (4×4 mL), saturated NaHCO3 (4 mL), brine (4 mL), and dried over Na2SO4. The final product was obtained by flash column chromatography on silica gel (7.5% MeOH/DCM).

reactant | tert-Butoxide | 1.65 mmol, 0.19 g | CC(C)([O-])C
reactant | 4-(Dipropylphosphoryl)benzenamine | 0.55 mmol, 0.12 g | C(CC)P(=O)(CCC)C1=CC=C(C=C1)N | C12H20NOP
reactant | 6-Chloro-2-iodo-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | 0.5 mmol, 0.18 mg | ClC1=C2N=CN(C2=NC(=N1)I)C1OCCCC1 | C10H10ClIN4O
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
product | N-(4-(Dipropylphosphoryl)phenyl)-2-iodo-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | C(CC)P(=O)(CCC)C1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)I)C1OCCCC1 | C22H29IN5O2P
